US07354932B2
To a solution of trans-1-acetoxy-4-(tert-butoxycarbonylamino)-2-cyclohexene (6.70 g, 26.3 mmol) in methanol (130 mL) was added solid K2CO3 (7.50 g, 54.4 mmol) and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated and the residue was dissolved in CH2Cl2 (250 mL) and saturated aqueous NaHCO3 (100 mL). The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×50 mL). The combined organic extracts were dried (Na2SO4) and concentrated. Purification of the crude material by column chromatography on silica gel (20:1 CH2Cl2—CH3OH) provided 3.38 g (60%) of trans-1-hydroxy-4-(tert-butoxycarbonylamino)-2-cyclohexene as a white solid. 1H NMR (CDCl3) δ 1.44 (s, 9H), 1.52-1.57 (m, 1H), 2.05-2.14 (m, 3H), 4.20-4.26 (br s, 2H), 4.45 (br s, 1H), 4.47-4.60 (m, 1H), 5.70 (d, 1H, J=10.2 Hz), 5.81 (d, 1H, J=10.2 Hz);

reactant | trans-1-acetoxy-4-(tert-butoxycarbonylamino)-2-cyclohexene | 26.3 mmol, 6.70 g | C(C)(=O)O[C@@H]1C=C[C@H](CC1)NC(=O)OC(C)(C)C | C13H21NO4
reactant | K2CO3 | 54.4 mmol, 7.50 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 130 mL | CO | CH4O
product | trans-1-hydroxy-4-(tert-butoxycarbonylamino)-2-cyclohexene | 3.38 g, 60% | O[C@@H]1C=C[C@H](CC1)NC(=O)OC(C)(C)C | C11H19NO3
